US07834042B2
Step C: (2-butyl-4-chloro-1-{[2′-(2H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazol-5-yl)methyl (5R)-5,6-bis(nitrooxy)hexanoate
To a dichloromethane (50 mL) suspension of Losartan potassium (4.72 g, 10.24 mmol), (5R)-5,6-bis(nitrooxy)hexanoic acid (1.23 g, 5.16 mmol), and 4-dimethylaminopyridine (0.075 g, 0.614 mmol) was added N-methylmorpholine (1.2 mL, 10.91 mmol), followed by N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.2 g, 6.26 mmol). After 2 hours, the reaction mixture was mixed with pH 5 buffer (sodium phosphate monobasic/sodium phosphate dibasic, 250 mL) and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (magnesium sulfate), and concentrated in vacuo. Chromatography over silica eluting with 2-12% methanol/dichloromethane afforded the title compound as a white solid (2.485 g, 3.86 mmol, 74.8% yield). 1H NMR (500 MHz, CD3CN) δ 7.69 (dd, J=1.1, 7.6 Hz, 1H), 7.64 (dt, J=1.3, 7.6 Hz, 1H), 7.53 (dt, J=1.1, 7.6 Hz, 1H), 7.49 (d, J=7.8 Hz, 1H), 7.09 (d, J=8.3 Hz, 2H), 6.91 (d, J=8.3 Hz, 2H), 5.27 (dq, J=2.8, 6.3 Hz, 1H), 5.15 (s, 2H), 4.95 (s, 2H), 4.75 (dd, J=2.8, 12.8 Hz, 1H), 4.51 (dd, J=6.1, 12.9 Hz, 1H), 2.48 (t, J=7.7 Hz, 2H), 2.08 (t, J=7.3 Hz, 2H), 1.5-1.7 (m, 6H), 1.28 (pent, J=7.4 Hz, 2H), 0.83 (t, J=7.5 Hz, 3H). LCMS: m/e 643.2 (M+H).

reactant | Losartan potassium | 10.24 mmol, 4.72 g | CCCCC1=NC(=C(N1CC=2C=CC(=CC2)C=3C=CC=CC3C4=N[N-]N=N4)CO)Cl.[K+]
reactant | (5R)-5,6-bis(nitrooxy)hexanoic acid | 5.16 mmol, 1.23 g | [N+](=O)([O-])O[C@H](CCCC(=O)O)CO[N+](=O)[O-] | C6H10N2O8
reactant | N-methylmorpholine | 10.91 mmol, 1.2 mL | CN1CCOCC1 | C5H11NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 6.26 mmol, 1.2 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium phosphate monobasic sodium phosphate dibasic | OP(=O)(O)[O-].[Na+].OP(=O)([O-])[O-].[Na+].[Na+]
catalyst | 4-dimethylaminopyridine | 0.614 mmol, 0.075 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol dichloromethane | CO.ClCCl
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2-butyl-4-chloro-1-{[2′-(2H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazol-5-yl)methyl (5R)-5,6-bis(nitrooxy)hexanoate | 3.86 mmol, 2.485 g, 74.8% yield | [N+](=O)([O-])O[C@H](CCCC(=O)OCC1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NNN1)CCCC)Cl)CO[N+](=O)[O-] | C28H31ClN8O8
